US07834012B2
3-(4-methoxyphenyl)-2,3-dihydrothiophene 1,1-dioxide
4-Methoxyphenyldiazonium borate (688 mg, 3.1 mmol), 2,5-dihydrothiophene-1,1-dioxide (465 mg, 3.94 mmol), and palladium(II) acetate (20.8 mg, 3 mol %) were mixed in 6 mL of methanol and then heated to reflux. Two additional portions of the diazonium borate (300 mg and 400 mg) along with 20 mg of palladium(II) acetate were added after one hour and five hours, respectively. After stirring overnight at reflux, the reaction mixture was cooled to room temperature, concentrated, and purified by column chromatography (eluting with 40-45% ethyl acetate/hexane) to give the title compound (644 mg). 1H NMR (300 MHz, CDCl3) δ ppm 3.14 (dd, J=13.90, 4.75 Hz, 1H), 3.69 (dd, J=13.73, 8.65 Hz, 1H), 3.80 (s, 3H), 4.25-4.35 (m, 1H), 6.65-6.78 (m, 2H), 6.89 (d, J=8.48 Hz, 2H), 7.15 (d, J=8.48 Hz, 2H). MS (DCI) m/z 242 (M+NH4)+.

reactant | 4-Methoxyphenyldiazonium borate | 3.1 mmol, 688 mg | B([O-])([O-])[O-].COC1=CC=C(C=C1)[N+]#N.COC1=CC=C(C=C1)[N+]#N.COC1=CC=C(C=C1)[N+]#N
reactant | 2,5-dihydrothiophene-1,1-dioxide | 3.94 mmol, 465 mg | S1(CC=CC1)(=O)=O | C4H6O2S
solvent | methanol | 6 mL | CO | CH4O
catalyst | palladium(II) acetate | 20.8 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | palladium(II) acetate | 20 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 3-(4-methoxyphenyl)-2,3-dihydrothiophene 1,1-dioxide | 644 mg | COC1=CC=C(C=C1)C1CS(C=C1)(=O)=O | C11H12O3S
